US07473786B1
5,7-Dichloro-2-phenyl-1H-indole (entry 6, Table 1):
The general procedure was used to convert 2,4-Dichloro-6-iodo-phenylamine and phenylacetylene to the title product. Purification by flash chromatography gave the analytically pure product as a white solid, 85% yield. 1H NMR (300 MHz, DMSO) δ 11.82 (s, 1H), 8.01-7.98 (d, J=8.2, 2H), 7.57 (s, 1H), 7.51-7.46 (t, J=7.15, 2H), 7.40-7.36 (t, J=7.15, 1H), 7.26 (d, J=1.88, 1H), 6.95 (d, J=2.07, 1H). 13C NMR (75 MHz, DMSO) δ 141.99, 133.71, 131.98, 131.86, 129.60, 129.10, 126.98, 124.85, 121.56, 119.11, 117.40, 100.90. Anal. Calcd. for C14H9Cl2N: C, 64.15; H, 3.46; Cl, 27.05; N, 5.34. Found C, 64.09; H, 3.37; Cl, 27.05; N, 5.28. m.p.: 135.5-137.5° C.

reactant | 2,4-Dichloro-6-iodo-phenylamine | ClC1=C(C(=CC(=C1)Cl)I)N | C6H4Cl2IN
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 5,7-Dichloro-2-phenyl-1H-indole | 85% yield | ClC=1C=C2C=C(NC2=C(C1)Cl)C1=CC=CC=C1 | C14H9Cl2N
